US08022062B2
6-Methoxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add potassium carbonate (5.65 g, 40.91 mmol), tetrakis(triphenylphosphine)palladium (1.576 g, 1.363 mmol) and trimethylboroxine (2.053 g, 2.3 mL, 16.35 mmol) to a solution of 7-bromo-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (4.8 g, 13.63 mmol) in dimethylformamide (40 mL) under nitrogen. Heat the mixture to 115° C. for 6 h. Add water and extract the aqueous phase twice with EtOAc. Combine the organic extracts, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 19:1) to obtain the desired intermediate as a solid (3.23 g, 83%). GC-MS m/z 287 (M+).

reactant | potassium carbonate | 40.91 mmol, 5.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 16.35 mmol, 2.3 mL, 2.053 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | 7-bromo-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 13.63 mmol, 4.8 g | BrC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OC | C13H13BrF3NO2
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 1.363 mmol, 1.576 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Methoxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.23 g, 83% | COC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)C | C14H16F3NO2
